### PR TITLE
[Merged by Bors] - feat: transfer `star`-related instances across equivalences

### PR DESCRIPTION
**Pull request by j-loreaux**
This also adds `Function.Injective.{InvolutiveStar,...}` and related lemmas.

In addition we rename the existing `Equiv.star` to `Equiv.Perm.star` (without a deprecation) so that the name can be used for the declaration which transfers a `Star` instance across an `Equiv`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Star/TransferInstance.lean [hunk 1]
```diff
@@ -0,0 +1,57 @@
...
+namespace Equiv
+
+variable (e : R ≃ S)
+
+/-- Transfer `Star` across an `Equiv` -/
+protected abbrev star [Star S] : Star R where
+  star r := e.symm (star (e r))
+
+/-- Transfer `InvolutiveStar` across an `Equiv` -/
+protected abbrev InvolutiveStar [InvolutiveStar S] : InvolutiveStar R :=
```
Comment (themathqueen) [inline Mathlib/Algebra/Star/TransferInstance.lean]: did you mean?
```suggestion
protected abbrev involutiveStar [InvolutiveStar S] : InvolutiveStar R :=
```

File: Mathlib/Algebra/Star/Basic.lean [hunk 2]
```diff
@@ -93,7 +93,7 @@ theorem star_inj [InvolutiveStar R] {x y : R} : star x = star y ↔ x = y :=
   star_injective.eq_iff
 
 /-- `star` as an equivalence when it is involutive. -/
-protected def Equiv.star [InvolutiveStar R] : Equiv.Perm R :=
+protected def Equiv.Perm.star [InvolutiveStar R] : Equiv.Perm R :=
```
Comment (themathqueen) [inline Mathlib/Algebra/Star/Basic.lean:96]: missing deprecation

Comment (SnirBroshi) [reply Mathlib/Algebra/Star/Basic.lean:96]: There's an explanation for it in the PR description - this PR adds a new `Equiv.star` (in the new file)

Comment (themathqueen) [reply Mathlib/Algebra/Star/Basic.lean:96]: Oh right! thanks!

File: Mathlib/Algebra/Star/TransferInstance.lean [hunk 3]
```diff
@@ -0,0 +1,57 @@
...
+
+variable {R S : Type*}
+
+@[expose] public section
+
+namespace Equiv
+
+variable (e : R ≃ S)
+
+/-- Transfer `Star` across an `Equiv` -/
```
Comment (themathqueen) [inline Mathlib/Algebra/Star/TransferInstance.lean]: Can you add a comment in the docstring here mentioning the old `Equiv.star` (now named `Equiv.Perm.star`)? Since there is no deprecation

File: Mathlib/Algebra/Star/TransferInstance.lean [hunk 4]
```diff
@@ -0,0 +1,57 @@
...
+Copyright (c) 2026 Jireh Loreaux. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Jireh Loreaux
+-/
+module
+
+public import Mathlib.Algebra.Star.Basic
+public import Mathlib.Algebra.Ring.TransferInstance
+
+/-! # Transfer algebraic structures across `Equiv`s
```
Comment (themathqueen) [inline Mathlib/Algebra/Star/TransferInstance.lean]: star?
```suggestion
/-! # Transfer star (algebraic) structures across `Equiv`s
```

File: Mathlib/Algebra/Star/Basic.lean [hunk 5]
```diff
@@ -519,6 +519,41 @@ theorem isRegular_star_iff [Mul R] [StarMul R] {x : R} :
...
+    (hf : Injective f) (star : ∀ x, f (star x) = star (f x)) (add : ∀ x y, f (x + y) = f x + f y) :
+    StarAddMonoid R where
+  toInvolutiveStar := hf.involutiveStar f star
+  star_add x y := hf <| by rw [star, add, star_add, add, star, star]
+
+/-- A non-unital non-associative ring endowed with `star` is a star ring if it admits an injective
+map that preserves `star`, `*` and `+` to a star ring. See note [reducible non-instances]. -/
+protected abbrev starRing [Star R] [NonUnitalNonAssocSemiring R] [NonUnitalNonAssocSemiring S]
+    [StarRing S] (star : ∀ x, f (star x) = star (f x)) (add : ∀ x y, f (x + y) = f x + f y)
+    (mul : ∀ x y, f (x * y) = f x * f y) (hf : Injective f) :
```
Comment (themathqueen) [inline Mathlib/Algebra/Star/Basic.lean]: Let's reorder these to keep things consistent with the rest (i.e., injective first):
```suggestion
    [StarRing S] (hf : Injective f) (star : ∀ x, f (star x) = star (f x))
    (add : ∀ x y, f (x + y) = f x + f y) (mul : ∀ x y, f (x * y) = f x * f y) :
```

File: Mathlib/Algebra/Star/TransferInstance.lean (hunk 3 above)
Comment (themathqueen) [inline Mathlib/Algebra/Star/TransferInstance.lean]:
```suggestion
/-- Transfer `Star` across an `Equiv`. See note [reducible non-instances]. -/
```

File: Mathlib/Algebra/Star/TransferInstance.lean [hunk 6]
```diff
@@ -0,0 +1,57 @@
...
+
+namespace Equiv
+
+variable (e : R ≃ S)
+
+/-- Transfer `Star` across an `Equiv` -/
+protected abbrev star [Star S] : Star R where
+  star r := e.symm (star (e r))
+
+/-- Transfer `InvolutiveStar` across an `Equiv` -/
```
Comment (themathqueen) [inline Mathlib/Algebra/Star/TransferInstance.lean]:
```suggestion
/-- Transfer `InvolutiveStar` across an `Equiv`. See note [reducible non-instances]. -/
```

File: Mathlib/Algebra/Star/TransferInstance.lean [hunk 7]
```diff
@@ -0,0 +1,57 @@
...
+protected abbrev involutiveStar [InvolutiveStar S] : InvolutiveStar R :=
+  let _ := e.star
+  e.injective.involutiveStar _ fun _ ↦ e.apply_symm_apply _
+
+/-- Transfer `StarMul` across an `Equiv` -/
```
Comment (themathqueen) [inline Mathlib/Algebra/Star/TransferInstance.lean]:
```suggestion
/-- Transfer `StarMul` across an `Equiv`. See note [reducible non-instances]. -/
```

File: Mathlib/Algebra/Star/TransferInstance.lean [hunk 8]
```diff
@@ -0,0 +1,57 @@
...
+protected abbrev starMul [Mul S] [StarMul S] :
+    letI := e.mul
+    StarMul R := by
+  let := e.star
+  let := e.mul
+  apply e.injective.starMul <;> (intros; exact e.apply_symm_apply _)
+
+/-- Transfer `StarAddMonoid` across an `Equiv` -/
```
Comment (themathqueen) [inline Mathlib/Algebra/Star/TransferInstance.lean]:
```suggestion
/-- Transfer `StarAddMonoid` across an `Equiv`. See note [reducible non-instances]. -/
```

File: Mathlib/Algebra/Star/TransferInstance.lean [hunk 9]
```diff
@@ -0,0 +1,57 @@
...
+protected abbrev starAddMonoid [AddMonoid S] [StarAddMonoid S] :
+    letI := e.addMonoid
+    StarAddMonoid R := by
+  let := e.star
+  let := e.addMonoid
+  apply e.injective.starAddMonoid <;> (intros; exact e.apply_symm_apply _)
+
+/-- Transfer `StarRing` across an `Equiv` -/
```
Comment (themathqueen) [inline Mathlib/Algebra/Star/TransferInstance.lean]:
```suggestion
/-- Transfer `StarRing` across an `Equiv`. See note [reducible non-instances]. -/
```

**Review by themathqueen — COMMENTED** [review]
Thanks! Just a few small comments

**Comment by themathqueen** [comment]
maintainer delegate

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
